US07022725B2
To a solution of diethyl malonate (3.55 g) in tetrahydrofuran (50 ml) was gradually added sodium hydride (60%, oil, 710 mg) at 0° C. The mixture was stirred for 10 min and a solution of 4-chloromethyl-5-(4,5-dichloro-2-thienyl)isoxazole (2.38 g) in tetrahydrofuran (50 ml) was added dropwise at 0° C. The mixture was stirred at room temperature for 15 hr. The reaction mixture was poured into water, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was dissolved in a mixture of 6N hydrochloric acid (60 ml) and acetic acid (90 ml), and the solution was heated under reflux for 8 hr. The reaction mixture was concentrated, and water was added to the residue to give colorless crystals (2.04 g, yield 79%) of 3-[5-(4,5-dichloro-2-thienyl)-4-isoxazolyl]propionic acid. The crystals were recrystallized from ethyl acetate-hexane to give a colorless prism. melting point: 142–143° C.

reactant | diethyl malonate | 3.55 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 710 mg | [H-].[Na+]
reactant | 4-chloromethyl-5-(4,5-dichloro-2-thienyl)isoxazole | 2.38 g | ClCC=1C=NOC1C=1SC(=C(C1)Cl)Cl | C8H4Cl3NOS
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-[5-(4,5-dichloro-2-thienyl)-4-isoxazolyl]propionic acid | 2.04 g, yield 79% | ClC=1C=C(SC1Cl)C1=C(C=NO1)CCC(=O)O | C10H7Cl2NO3S
